US08013156B2
To a solution of 3′-chloro-2,3,5,6-tetrahydro-[1,2′]bipyrazinyl-4-carboxylic acid (3,5-bis-trifluoromethyl-phenyl)-amide (115 mg, 0.254 mmol) and 1M solution of potassium tert-butoxide in tert-butanol (0.80 mL, 0.80 mmol) was added 2-Chloro-4-pyridinemethanol (81.8 mg, 0.568 mmol). The resulting suspension was stirred at room temperature for 15 h. The crude reaction mixture was diluted with methanol and purified by preparative HPLC (50 mM NH4OAc(aq), Acetonitrile system). The product was isolated by lyophilization of pure fractions yielding N-[3,5-bis(trifluoromethyl)phenyl]-4-(3-{[(2-chloropyridin-4-yl)methyl]oxy}pyrazin-2-yl)piperazine-1-carboxamide (29.9 mg, 21% yield). 1H NMR (CDCl3) 8.41 (d, 1H), 7.91 (s, 2H), 7.82 (d, 1H), 7.61 (d, 1H), 7.54 (s, 1H), 7.39 (s, 1H), 6.70 (s, 1H), 5.47 (s, 2H), 3.70-3.65 (m, 8H) ppm.

reactant | 3′-chloro-2,3,5,6-tetrahydro-[1,2′]bipyrazinyl-4-carboxylic acid (3,5-bis-trifluoromethyl-phenyl)-amide | 0.254 mmol, 115 mg | FC(C=1C=C(C=C(C1)C(F)(F)F)NC(=O)N1CCN(CC1)C1=NC=CN=C1Cl)(F)F | C17H14ClF6N5O
reactant | potassium tert-butoxide | CC(C)([O-])C.[K+]
reactant | tert-butanol | 0.80 mmol, 0.80 mL | C(C)(C)(C)O | C4H10O
reactant | 2-Chloro-4-pyridinemethanol | 0.568 mmol, 81.8 mg | ClC1=NC=CC(=C1)CO | C6H6ClNO
solvent | methanol | CO | CH4O
product | N-[3,5-bis(trifluoromethyl)phenyl]-4-(3-{[(2-chloropyridin-4-yl)methyl]oxy}pyrazin-2-yl)piperazine-1-carboxamide | 29.9 mg, 21% yield | FC(C=1C=C(C=C(C1)C(F)(F)F)NC(=O)N1CCN(CC1)C1=NC=CN=C1OCC1=CC(=NC=C1)Cl)(F)F | C23H19ClF6N6O2
